US04333950
In a manner similar to Example 12A, the reaction of 0.51 g (0.0016 mole) of (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarbonyl chloride (an additional four drops were added 1 hour after original addition) with 0.33 g (0.0016 mole) of (+)-4-phenyl-2-indanol (EE 50%), 0.16 g (0.002 mole) of pyridine and toluene produced an oil. The oil was subjected to vacuum column chromatography, whereby the oil was placed on silica gel packed in a sintered glass suction funnel, and the eluant was drawn through by water aspirator vacuum. Elution was accomplished with hexane, then 24:1 hexane/ethyl acetate to give (+)-4-phenyl-2-indanyl (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarboxylate as an oil, EE 50% (alcohol moiety). The nmr spectrum was consistent with the proposed structure.

reactant | (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.0016 mole, 0.51 g | BrC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Br | C8H9Br2ClO
reactant | (+)-4-phenyl-2-indanol | 0.0016 mole, 0.33 g | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)O | C15H14O
reactant | pyridine | 0.002 mole, 0.16 g | N1=CC=CC=C1 | C5H5N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (+)-4-phenyl-2-indanyl (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarboxylate | BrC(=C[C@H]1C([C@H]1C(=O)OC1CC2=CC=CC(=C2C1)C1=CC=CC=C1)(C)C)Br | C23H22Br2O2
